US07906645B2
Benzyl 4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxylate
Benzyl 4-{[(3S)-1-(tert-butoxycarbonyl)piperidin-3-yl]methyl}piperazine-1-carboxylate (4.46 g) was stirred in a mixture of trifluoroacetic acid (20 ml) and dichloromethane (200 ml) for two hours at room temperature. The reaction mixture was concentrated in vacuo and the resulting oil separated between ethyl acetate (200 ml) and saturated aqueous sodium bicarbonate solution (500 ml). The ethyl acetate layer was separated, dried over magnesium sulphate, filtered then concentrated in vacuo to give the title compound (3.6 g).

reactant | Benzyl 4-{[(3S)-1-(tert-butoxycarbonyl)piperidin-3-yl]methyl}piperazine-1-carboxylate | 4.46 g | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C23H35N3O4
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Benzyl 4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxylate | 3.6 g | N1C[C@@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H27N3O2
